2148-08-04 07:04:00 Physician Resident Progress Note
Chief Complaint: 35yo woman w hx of newly dx T cell lymphoma ([**2148-7-4**])
   is day 10 s/p CHOP admitted for febrile neutropenia.
   24 Hour Events:
   afebrile the majority of the night.  spiked T to 102.9 this am.
   received 7L fluids overnight and had subsequent Hct drop to 20.
   Recieved 2 units of PRBCs.  She did not require pressors.
   Subjective:
   Patient reports feeling better with temp down to 102.1.  She reports
   rigors and fevers.  She denies SOB, dysuria, n/v/d.  Her abdominal pain
   is better after BM x2 last night.  She has been constipated.  Reports
   that formed stool.  She reports hemorroids, being treated with TUCKS.
   Allergies:
   Codeine
   Nausea/Vomiting
   Sulfa (Sulfonamides)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2148-8-3**] 08:00 PM
   Cefipime - [**2148-8-4**] 01:28 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-8-4**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.7
C (96.2
   HR: 119 (72 - 119) bpm
   BP: 111/69(78) {90/53(62) - 111/69(78)} mmHg
   RR: 24 (17 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  8,419 mL
                                                                    276 mL
   PO:
                                                                    360 mL
           TF:
   IVF:
                                                                  1,608 mL
                                                                    170 mL
   Blood products:
                                                                    451 mL
                                                                    107 mL
   Total out:
                                                                  1,700 mL
                                                                    400 mL
   Urine:
                                                                  1,700 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,719 mL
                                                                   -124 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   Gen: warm, flushed, patient appears uncomfortable, but NAD
   HEENT: oral lesion on upper lip mucosal membrane
   Lungs:  CTA in all lung fields
   CV: rapid rate, regular rhythm, s1 & s2 nl, no M/R/G
   Abd: +bs, NT, ND, no masses, no HSM
   Ext: warm, dry, brisk cap refill
   Labs / Radiology
   151 K/uL
   9.4 g/dL
   111 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.7 mEq/L
   9 mg/dL
   111 mEq/L
   140 mEq/L
   26.3 %
   1.7 K/uL
        [image002.jpg]
                             [**2148-8-3**]  04:29 PM
                             [**2148-8-4**]  03:11 AM
   WBC
   1.7
   Hct
   20.7
   26.3
   Plt
   151
   Cr
   0.6
   Glucose
   111
   Other labs: PT / PTT / INR:14.8/31.0/1.3, Lactic Acid:1.0 mmol/L,
   Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR [**2148-8-4**]
final read
   As compared to the previous examination, there are subtle motion
   artifacts due to breathing. There is no clear evidence of newly
   appeared
   parenchymal opacity suggestive of pneumonia. No pneumothorax, no
   pleural
   effusions. The size of the cardiac silhouette is unchanged.
   Microbiology: blood cx x2 pending
   Assessment and Plan
   Mrs. [**Known lastname 151**] is a 35 yo woman with peripheral T-cell lymphoma C1D10 CHOP
   here with febrile neutropenia and associated hypotension.  Documented
   SBP in OMR is generally 100-110 at baseline so this is only slightly
   off her normal.
   .
   # Febrile neutropenia: No infiltrate on CXR.  No skin lesions.  Has
   some mild mucositis and mild abd pain.  Suspect likely pathogens such
   as pseudomonas, ecoli, staph.  Less likely would be cdiff (although
   possible given abd pain).
   - will rx empirically w cefepime and vanco for now
   - neupogen decreased to 300 x1 per onc request
   - f/u pan-cultures
   - will reculture now given fevers and rigors
   - check cdiff if stools
   - BP support with IVF for now.  Goal SBP>90
   .
   # Hypotension: as above.  Suspect part of this is simply dehydration as
   pt admits to poor PO intake.  Plus has immeasurable losses with
   tachycardia and fever.  Will not continue stress dose steroids.
   - ivf bolus for SBP<90.  consider maintenance IVF o/n.
   - rx w abx as above.
   -will check PM Hct and lytes.  Transfuse to keep Hct >25
   - maintain current IV access for now
   .
   # CXR
 concern for abnormal cardiac silhouette based on CXR.
   Radiology feels it may be due to increased fluid in lungs vs. rotation
   of patient.  Will obtain Echo to further eval.
   .
   # Heme/onc: d10 s/p CHOP.  Neupogen as above.  Goal HCT>25.
   - pt is on allopurinol.  will check uric acid level
 if low/nl will
   d/c allopurinol per onc rec.
   - apprec heme/onc recs
   .
   # LFT abnl: likely from lymphoma.  generally improving.  Trend prn
   .
   # abd pain: diffuse and mild and improved with BM.   Pt endorses
   constipation.  Rx with bowel regimen for now.  If has spiking fevers
   and worsening pain, consider typhlitis and make pt NPO.  Continue diet
   fow now.
   .
   # mucositis
 start acyclovir for presumed oral HSV.  [**Month (only) 11**] also use
   lidocaine swish for comfort.  Patient does not have dysphagia.
   # Prophylaxis - Bowel regimen, Boots, PPI
   .
   # Code status: Full
   .
   # Contact: HCP [**Name (NI) 152**] husband [**Telephone/Fax (1) 153**]
   .
   # Consent for bld and ICU in chart.
   .
   # Access: 18 and 20 good for now.
   .
   # dispo: consider transfer to floor if patient
s fever resolves and BP
   remains stable through night.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2148-8-3**] 03:20 PM
   20 Gauge - [**2148-8-3**] 03:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2148-08-05 07:37:00 Physician Resident Progress Note
Chief Complaint: febrile neutropenia.
   24 Hour Events:
 BLOOD CULTURED - At [**2148-8-4**] 12:00 PM
 URINE CULTURE - At [**2148-8-4**] 12:00 PM
 FEVER - 104.3
F - [**2148-8-4**] 04:00 PM
   Patient has been spiking throughout day and night. -- blood cx x2
   including fungal cultures.
   Spiked again to 103.3 this morning at 4 am.
   Fevers tx'ed with cooling blanket, tylenol, ibuprofen.
   Subjective:   Patient reports that the cooling blanket helped
   tremendously with discomfort of fevers.   Patient was able to sleep.
   She reports a mild sore throat this morning with some irritation during
   swallowing.  She reports being
out of breath
 when febrile and
   ambulating.  She reports having BM today but had considerable
   discomfort during BM.  The patient reports HA, fevers, and chills.  She
   denies cough, abdominal pain.
   Allergies:
   Codeine
   Nausea/Vomiting
   Sulfa (Sulfonamides)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2148-8-4**] 08:23 PM
   Cefipime - [**2148-8-5**] 03:28 AM
   Acyclovir - [**2148-8-5**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2148-8-4**] 05:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-8-5**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.2
C (104.3
   Tcurrent: 39.6
C (103.3
   HR: 122 (99 - 132) bpm
   BP: 106/49(59) {84/19(35) - 112/70(79)} mmHg
   RR: 33 (18 - 34) insp/min
   SpO2: 92%  RA
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,736 mL
                                                                  2,083 mL
   PO:
                                                                  1,080 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  2,549 mL
                                                                  1,983 mL
   Blood products:
                                                                    107 mL
   Total out:
                                                                  4,125 mL
                                                                  1,450 mL
   Urine:
                                                                  4,125 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -389 mL
                                                                    633 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%  RA
   ABG: ///20/
   Physical Examination
   Gen: patient lying in bed in NAD
   HEENT: small 0.5cm shallow ulceration on inside of upper lip.  White
   plaques c/w thrush on buccal mucosa bilat.  No erythema or thrush
   visualized at back of throat.
   NECK: no cervical of supraclavicular LAD
   Lungs: CTA in all lung fields
   CV: rapid rate, regular rhythm.  No M/R/G
   ABD: +BS, Soft NT, ND, no masses
   Ext: [**3-3**]+ edema in LE bilat.
   Labs / Radiology
   150 K/uL
   9.4 g/dL
   84 mg/dL
   0.5 mg/dL
   20 mEq/L
   4.3 mEq/L
   9 mg/dL
   110 mEq/L
   140 mEq/L
   27.0 %
   1.3 K/uL
         [image002.jpg]
                             [**2148-8-3**]  04:29 PM
                             [**2148-8-4**]  03:11 AM
                             [**2148-8-4**]  04:40 PM
                             [**2148-8-5**]  03:25 AM
   WBC
   1.7
   1.2
   1.3
   Hct
   20.7
   26.3
   25.3
   27.0
   Plt
   151
   171
   150
   Cr
   0.6
   0.6
   0.5
   Glucose
   111
   143
   84
   Other labs: PT / PTT / INR:15.0/31.7/1.3, Lactic Acid:1.0 mmol/L,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR [**2148-8-4**]
   As compared to the previous examination, there are subtle motion
   artifacts due to breathing. There is no clear evidence of newly
   appeared
   parenchymal opacity suggestive of pneumonia. No pneumothorax, no
   pleural
   effusions. The size of the cardiac silhouette is unchanged.
   Microbiology: blood cx x5 pending
   urine cx pending.
   Assessment and Plan
   Mrs. [**Known lastname 151**] is a 35 yo woman with peripheral T-cell lymphoma C1D10 CHOP
   here with febrile neutropenia and associated hypotension.  Documented
   SBP in OMR is generally 100-110 at baseline so this is only slightly
   off her normal.
   .
   # Febrile neutropenia: No localizing infection.  No infiltrate on CXR.
   No skin lesions.  Has some mild mucositis and mild abd pain.  Suspect
   likely pathogens such as pseudomonas, ecoli, staph.
   - will rx empirically w cefepime and vanco for now
   - neupogen decreased to 300 x1 per onc request
 fup re: neupogen
   - f/u pan-cultures
   - will reculture Q 24 hrs if continues to spike fevers.  given fevers
   and rigors
   .
   # Hypotension:  Suspect part of this is simply dehydration as pt admits
   to poor PO intake.  Plus has immeasurable losses with tachycardia and
   fever.  Will not continue stress dose steroids.
   - Patient on maintenance NS @ 125.
   - rx w abx as above.
   - Transfuse to keep Hct >25
   - maintain current IV access for now
   .
   # CXR
 concern for abnormal cardiac silhouette based on CXR.
   Radiology feels it may be due to increased fluid in lungs vs. rotation
   of patient.  Will obtain Echo to further eval.
   .
   # Heme/onc: d10 s/p CHOP.  Neupogen as above.  Goal HCT>25.
   - low uric acid so discontinued allopurinol per onc rec.
   - apprec heme/onc recs
   .
   # LFT abnl: likely from lymphoma.  generally improving.  Trend prn
   .
   # abd pain: diffuse and mild and improved with BM.   Pt endorses
   constipation.  Rx with bowel regimen for now.  If has spiking fevers
   and worsening pain, consider typhlitis and make pt NPO.  Continue diet
   fow now.
   .
   # REN -- repleting lytes as necessary
   # mucositis
 start acyclovir for presumed oral HSV.  [**Month (only) 11**] also use
   lidocaine swish for comfort.
   .
   # Thrush
 nystatin swish and swallow.
   .
   # Prophylaxis - Bowel regimen, Boots, PPI
   .
   # Code status: Full
   .
   # Contact: HCP [**Name (NI) 152**] husband [**Telephone/Fax (1) 153**]
   .
   # Consent for bld and ICU in chart.
   .
   # Access: 18 and 20 good for now.
   .
   # dispo: discuss call out with BMT team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2148-8-3**] 03:20 PM
   22 Gauge - [**2148-8-5**] 03:36 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Addition to plan that left out in error:
   If patient continues to spike fevers on current ABX regimen, consider
   adding meropenum later in the day.
   Discussed adding an antifungal with Onc team and they felt that a
   fungal infection was unlikely to be causing the patients severe fevers
   and rigors.
   ------ Protected Section Addendum Entered By:[**Name (NI) 155**] [**Last Name (NamePattern1) 156**], MD
   on:[**2148-8-5**] 11:00 ------

2148-08-05 10:20:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2148-8-4**] 12:00 PM
 URINE CULTURE - At [**2148-8-4**] 12:00 PM
 FEVER - 104.3
F - [**2148-8-4**] 04:00 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Codeine
   Nausea/Vomiting
   Sulfa (Sulfonamides)
   Hives;
   Last dose of Antibiotics:
   Cefipime - [**2148-8-5**] 03:28 AM
   Acyclovir - [**2148-8-5**] 06:00 AM
   Vancomycin - [**2148-8-5**] 07:52 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2148-8-4**] 05:39 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Allergy / Immunology: Immunocompromised
   Flowsheet Data as of  [**2148-8-5**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.2
C (104.3
   Tcurrent: 38
C (100.4
   HR: 115 (99 - 132) bpm
   BP: 111/66(75) {84/31(46) - 112/69(75)} mmHg
   RR: 19 (18 - 34) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,736 mL
                                                                  2,693 mL
   PO:
                                                                  1,080 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  2,549 mL
                                                                  2,593 mL
   Blood products:
                                                                    107 mL
   Total out:
                                                                  4,125 mL
                                                                  1,750 mL
   Urine:
                                                                  4,125 mL
                                                                  1,750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -389 mL
                                                                    943 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : few basilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   150 K/uL
   84 mg/dL
   0.5 mg/dL
   20 mEq/L
   4.3 mEq/L
   9 mg/dL
   110 mEq/L
   140 mEq/L
   27.0 %
   1.3 K/uL
        [image002.jpg]
                             [**2148-8-3**]  04:29 PM
                             [**2148-8-4**]  03:11 AM
                             [**2148-8-4**]  04:40 PM
                             [**2148-8-5**]  03:25 AM
   WBC
   1.7
   1.2
   1.3
   Hct
   20.7
   26.3
   25.3
   27.0
   Plt
   151
   171
   150
   Cr
   0.6
   0.6
   0.5
   Glucose
   111
   143
   84
   Other labs: PT / PTT / INR:15.0/31.7/1.3, Lactic Acid:1.0 mmol/L,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 NEUTROPENIA
 HYPOTENSION (NOT SHOCK)
 CONSTIPATION (OBSTIPATION, FOS)
   Feeling better although still with high fevers, rigors. Did better with
   cooling blanket.  Cx remain neg and her granulocyte count is pending.
   We are continuing broad abx for now. C/O sore throat and has sm amt of
   thrush so starting Nystatin.  Will limit IVF now and let her adjust her
   volume status. Echo today due to change in cardiac configuration.
   ICU Care
   Nutrition:
   Comments: Eating full diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2148-8-3**] 03:20 PM
   22 Gauge - [**2148-8-5**] 03:36 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes